US04771051
B. 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-ethyl-5-oxo-imidazo(1,5-a)quinazoline
3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl-4,5-dihydro-4-cyclopropyl-5-oxo-6-chloro-imidazo(1,5-a)quinazoline. M.p. 232°-235° C. by reaction between 3-cyclopropyl-5-chloro-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline and 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole.

reactant | 5-cyclopropyl-1,2,4-oxadiazol-3-yl-4,5-dihydro-4-cyclopropyl-5-oxo-6-chloro-imidazo(1,5-a)quinazoline | C1(CC1)C1=NC(=NO1)C1=NC=C2N1C1=CC=CC(=C1C(N2C2CC2)=O)Cl | C18H14ClN5O2
reactant | 3-cyclopropyl-5-chloro-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline | C1(CC1)N1C(NC2=CC=CC(=C2C1=O)Cl)=O | C11H9ClN2O2
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
product | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-ethyl-5-oxo-imidazo(1,5-a)quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=CC=CC=C21)=O)CC | C17H15N5O2
